Low Pass Filter

****************************************************** Network Layout **
* Same circuit as 'ac.net' but this time we want to see how noise
* affects the circuit.
************************************************************************

VIN 1 0 ac 15 0 sin
R1 1 2 27K
C1 2 0 0.01u

************************************************** Simulation Profile **
* You can analyze the noise effects with `NOISE`:
*
*     .NOISE V(OUTPUT [ , REF ] ) SRC [ DEC | LIN | OCT ] PTS FSTART FSTOP [ PTS_PER_SUMMARY ]
*
* Hmm... I don't see any use to this yet...
************************************************************************

.control
	ac OCT 8 1.0 1MHz
	noise V(2,1) VIN OCT 8 1.0 1MHz 1
.endc

************************************************** Execution + Output **
* To run this example:
*
*     ngspice noise.net
*
************************************************************************

.end
